US06362361B1
Ethyl 2,2-di(tertiary-butylperoxy)-1-cyclopentanecarboxylate was prepared by the addition of 92.28% TBHP (tertiary butyl hydroperoxide) (24.41 g, 0.2500 moles) to 95% ethyl 2-oxo-cyclopentanecarboxylate (16.44 g, 0.1000 mol) in a three necked 250-mL round bottomed flask equipped with a thermometer and mechanical stirrer at room temperature. The solution was cooled to −10° C. via a dry ice-acetone bath and 70% sulfuric acid (16.81 g, 0.1200 mol) was added dropwise to the solution with temperature at −10° C. Upon completion of the addition of sulfuric acid, the solution was allowed to reach 5° C. where it was maintained by an ice-water bath for three hours with mechanical stirring. The reaction was transferred to a separatory funnel and the lower acidic aqueous layer separated and discarded. The organic layer was then washed with saturated NaCl solution until the aqueous washings had a pH of 4.5 or greater. The organic layer was then dried over MgSO4, filtered through a Buchner funnel and analyzed for purity by gas chromatography (87.98% by area). Purification by chromatography (silica gel, 90:10 petroleum ether/diethyl ether) afforded a liquid product: 13C NMR (75 MHz, CDCl3) δ 171.8 (C═O), 116.8 (O—C—O, cyclic), 79.6 (C(CH3)3, 79.2 (C(CH3)3, 59.8 (O—CH2CH3), 49.5 (CH, cyclic), 32.9 (CH2, cyclic), 27.7 (CH2, cyclic) 26.2 ((CH3)3), 26.1 ((CH3)3), 22.1 (CH2, cyclic) 13.8 (CH2CH3); IR (neat) ν 1735, 1364, 1198, 878 cm−1; Analysis calculated for C16H30O6; C, 60.36, H, 9.50; O, 30.15; found: C, 60.36; H, 9.58; O, 29.11.

reactant | TBHP | 0.2500 moles, 24.41 g | C(C)(C)(C)OO | C4H10O2
reactant | ethyl 2-oxo-cyclopentanecarboxylate | 0.1000 mol, 16.44 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | sulfuric acid | 0.1200 mol, 16.81 g | S(O)(O)(=O)=O | H2O4S
product | Ethyl 2,2-di(tertiary-butylperoxy)-1-cyclopentanecarboxylate | C(C)(C)(C)OOC1(C(CCC1)C(=O)OCC)OOC(C)(C)C | C16H30O6
